US06608203B2
4-Amino-3-{6-hydroxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-3,4-dihydro-1H-isoquinoline-2sulfonyl}pent-3-en-2-one
A mixture of 6-benzyloxy-2-(3,5-dimethylisoxazole-4-sulfonyl)-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-1,2,3,4-tetrahydroisoquinoline (0.036 g, 0.061 mmol), ammonium formate (0.077 g, 1.22 mmol), and 20% Pd(OH)2/C (0.020 g) in MeOH (20 ml) was refluxed under N2 for 1.5 hr, then filtered through Celite. The filtrate was evaporated in vacuo to a yellow residue that was suspended in a mixture of H2O(3 ml) and sat. NaHCO3 solution (3 ml), then extracted with CH2Cl2 (3×3 ml). The combined organic extracts were dried over MgSO4 and concentrated in vacuo to give 0.023 g (76% yield) of yellow oil. Further purification by preparative TLC, eluting with SiO2, EtOAc:MeOH (1:1), gave 0.019 g (63% yield) of colorless oil.

reactant | 6-benzyloxy-2-(3,5-dimethylisoxazole-4-sulfonyl)-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-1,2,3,4-tetrahydroisoquinoline | 0.061 mmol, 0.036 g | C(C1=CC=CC=C1)OC=1C=C2CCN(C(C2=CC1)C1=CC=C(C=C1)OCCN1CCCC1)S(=O)(=O)C=1C(=NOC1C)C | C33H37N3O5S
reactant | ammonium formate | 1.22 mmol, 0.077 g | C(=O)[O-].[NH4+]
solvent | MeOH | 20 ml | CO | CH4O
catalyst | Pd(OH)2/C | 0.020 g | [OH-].[OH-].[Pd+2]
product | 4-Amino-3-{6-hydroxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-3,4-dihydro-1H-isoquinoline-2sulfonyl}pent-3-en-2-one | 0.023 g, 76% yield | NC(=C(C(C)=O)S(=O)(=O)N1C(C2=CC=C(C=C2CC1)O)C1=CC=C(C=C1)OCCN1CCCC1)C | C26H33N3O5S
